US05021420
The experiment is carried out as in Example 1, starting with 2-(2-chloroethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (1.2 g), 4-(4-hydroxyphenyl)piperazine dihydrobromide (3.4 g) and sodium bicarbonate (1.3 g) in dimethylformamide (30 cc). The mixture is heated for 4 hours at boiling point, then cooled to a temperature of about 20° C. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5 - 1.5 bar) with ethyl acetate as eluant, and recrystallization from boiling acetonitrile (90 cc), 2-(2-[4-(4-hydroxyphenyl)-1-piperazin-Yl]ethyl}naphtho[1-,8-cd]isothiazole 1,1-dioxide (1.6 g) is obtained, m.p. 235° C.

reactant | 2-(2-chloroethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 1.2 g | ClCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C12H10ClNO2S
reactant | 4-(4-hydroxyphenyl)piperazine dihydrobromide | 3.4 g | Br.Br.OC1=CC=C(C=C1)N1CCNCC1
reactant | sodium bicarbonate | 1.3 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 30 cc | CN(C=O)C | C3H7NO
product | 2-(2-[4-(4-hydroxyphenyl)-1-piperazin-Yl]ethyl}naphtho[1-,8-cd]isothiazole 1,1-dioxide | 1.6 g | OC1=CC=C(C=C1)N1CCN(CC1)CCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C22H23N3O3S
